US04493843
A mixture of 2-(n-decyl)indole-6-carboxylic acid (62.5 g), perchloric acid (40 ml of strength 70% w/v) and glacial acetic acid (400 ml) were hydrogenated over palladium on charcoal (5% w/w, 8.0 g) at 80°-90° C. and atmospheric pressure. When hydrogen uptake had ceased (after 4 hours) the hot mixture was filtered and the residue was washed with hot (80° C.) glacial acetic acid (500 ml). The combined filtrates were concentrated in vacuo to 450 ml and were poured onto ice (1000 g). The mixture was adjusted to pH 9 by treatment with an aqueous solution of sodium hydroxide (strength 50% w/v) and was then adjusted to pH 4-5 with glacial acetic acid. The solid was collected, was washed with water (3×100 ml) and was dried. The solid was dissolved in boiling ethanol, treated with charcoal, and the solution was filtered. The filtrate was treated with an excess of a solution of hydrogen chloride in ethanol (90 ml of strength 37% w/v) and then the mixture was cooled and diluted with diethyl ether (750 ml). The solid was collected and treated as in Example 56 to give (RS)-2-(n-decyl)indoline-6-carboxylic acid (47.4 g), in the form of a buff solid, m.p. 123°-125° C.

reactant | 2-(n-decyl)indole-6-carboxylic acid | 62.5 g | C(CCCCCCCCC)C=1NC2=CC(=CC=C2C1)C(=O)O | C19H27NO2
reactant | perchloric acid | 40 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 8.0 g | [Pd] | Pd
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | (RS)-2-(n-decyl)indoline-6-carboxylic acid | 47.4 g | C(CCCCCCCCC)C1NC2=CC(=CC=C2C1)C(=O)O | C19H29NO2
